US05731452
Using as the materials and reagents (1E,3S,5R)-1-iodo-3-(tert-butyldimethylsiloxy)-5-methyl-1-nonene (476 mg, 1.2 mmol), tert-butyllithium (1.54 mol/l, 1.56 ml, 2.4 mmol), 174 mg of 1-hexynylcopper, hexamethylphosphorous triamide (436 μl), (4R)-tert-butyldimethylsiloxy-2-(5-methoxycarbonylpentylthio)-2-cyclopenten-1-one (373 mg, 1 mmol), and isobutyric anhydride (448 μl), the same procedure was performed as in Example 1 to obtain methyl(11R,12S,13E,15S,17R)-9-isobutyryloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate (466 mg, 65%).

reactant | (1E,3S,5R)-1-iodo-3-(tert-butyldimethylsiloxy)-5-methyl-1-nonene | 1.2 mmol, 476 mg | I\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C | C16H33IOSi
reactant | tert-butyllithium | 2.4 mmol, 1.54 mol/l, 1.56 ml | C(C)(C)(C)[Li]
reactant | 1-hexynylcopper | 174 mg | C(#CCCCC)[Cu]
reactant | (4R)-tert-butyldimethylsiloxy-2-(5-methoxycarbonylpentylthio)-2-cyclopenten-1-one | 1 mmol, 373 mg | C(C)(C)(C)[C@@H]1C(=C(C(C1)=O)SCCCCCC(=O)OC)O[SiH](C)C | C18H32O4SSi
reactant | isobutyric anhydride | 448 μl | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | hexamethylphosphorous triamide | 436 μl | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | methyl(11R,12S,13E,15S,17R)-9-isobutyryloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 466 mg, 65% | COC(CCCCCSC1=C(C[C@H]([C@@H]1\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)OC(C(C)C)=O)=O | C38H72O6SSi2
